US06303790B1
d) 6-Chloro-N-methyl-4-o-tolyl-nicotinamide
A solution of 1.5 g (8.8 mmol) 6-chloro-N-methyl-nicotinamide in 18 ml THF was added at 4° C. over 15 min to a solution of 21.9 ml (21.9 mmol) o-tolylmagnesium chloride 1M in THF. The reaction mixture was stirred at r.t. for 2 h cooled to 4° C. and treated dropwise over 10 min with 30.0 ml 5% aqueous NH4Cl. The aqueous phase was separated and extracted twice with THF and the organic phases were washed twice with 5% aqueous NH4Cl. The combined organic phases were dried over Na2SO4 and subsequently treated at r.t. in four portions over 10 h with 0.9 g (5.7 mmol) KMnO4. The reaction mixture was stirred for 5.5 h at r.t., filtrated and the solvent was removed. The residue was purified by chromatography over silica gel (CHCl3) to yield 1.8 g (78.9%) product as a yellow oil.

reactant | 6-chloro-N-methyl-nicotinamide | 8.8 mmol, 1.5 g | ClC1=NC=C(C(=O)NC)C=C1 | C7H7ClN2O
reactant | o-tolylmagnesium chloride | 21.9 mmol, 1M, 21.9 ml | C1(=C(C=CC=C1)[Mg]Cl)C
reactant | NH4Cl | 30.0 ml | [NH4+].[Cl-]
reactant | KMnO4 | 5.7 mmol, 0.9 g | [O-][Mn](=O)(=O)=O.[K+]
solvent | THF | 18 ml | C1CCOC1 | C4H8O
product | 6-Chloro-N-methyl-4-o-tolyl-nicotinamide | 1.8 g, 78.9% | ClC1=NC=C(C(=O)NC)C(=C1)C1=C(C=CC=C1)C | C14H13ClN2O
